US07402581B2
(a) tert-Butyl {(2S)-2-(3,4-dichlorophenyl)-4-[3-(4-fluoropiperidin-1-yl)azetidin-1-yl]butyl}methylcarbamate
The compound was synthesized in an analogous way to that of Method 3d but using 1-azetidin-3-yl-4-fluoropiperidine dihydrochloride (see WO 97/27185) and tert-butyl [(2S)-2-(3,4-dichlorophenyl)-4-oxobutyl]methylcarbamate (see WO 95/05377) rather than 4-azetidin-3-ylthiomorpholine dihydrochloride and tert-butyl [2-(4-fluorophenyl)-4-oxobutyl]methylcarbamate (yield, 13%). 1H NMR (500 MHz, CDCl3): 1.3 (s, 9H), 1.5-3.6 (cm, 23H), 4.6-4.8 (bd, 1H), 6.9-7.1 (dd, 1H), 7.2 (m, 1H), 7.4 (d, 1H), LCMS: m/z 489 (M+1)+.

reactant | 1-azetidin-3-yl-4-fluoropiperidine dihydrochloride | Cl.Cl.N1CC(C1)N1CCC(CC1)F
reactant | tert-butyl [(2S)-2-(3,4-dichlorophenyl)-4-oxobutyl]methylcarbamate | ClC=1C=C(C=CC1Cl)[C@@H](CN(C(OC(C)(C)C)=O)C)CC=O | C16H21Cl2NO3
reactant | 4-azetidin-3-ylthiomorpholine dihydrochloride | Cl.Cl.N1CC(C1)N1CCSCC1
reactant | tert-butyl [2-(4-fluorophenyl)-4-oxobutyl]methylcarbamate | FC1=CC=C(C=C1)C(CN(C(OC(C)(C)C)=O)C)CC=O | C16H22FNO3
product | tert-Butyl {(2S)-2-(3,4-dichlorophenyl)-4-[3-(4-fluoropiperidin-1-yl)azetidin-1-yl]butyl}methylcarbamate | ClC=1C=C(C=CC1Cl)[C@@H](CN(C(OC(C)(C)C)=O)C)CCN1CC(C1)N1CCC(CC1)F | C24H36Cl2FN3O2
